US04328367
Production of N-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide.
In acetone (100 ml) was dissolved N-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydroisophthalimide (22.5 g), and under cooling, 25% aqueous ammonia (5.8 g) was added dropwise over a period of about one minute, the temperature of the system being maintained below 25° C. The mixture was further stirred for 30 minutes, after which the precipitate was recovered by filtration and washed with a small amount of cold acetone. Yield 22.2 g; m.p. 150°-151° C.

reactant | N-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydroisophthalimide | 22.5 g | FC1=C(C=CC(=C1)Cl)N1C(C2=CC(C1=O)CCC2)=O | C14H11ClFNO2
reactant | ammonia | 5.8 g | N | H3N
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide | FC1=C(C=CC(=C1)Cl)NC(C1=C(C(=O)N)CCCC1)=O | C14H14ClFN2O2
